US06777578B2
1-Bromo-2,3,4-trimethoxy-benzene (9)
Pyrogallol trimethyl ether (5.1 g) was suspended in CCl4 (60 mL) and N-bromosuccinimide (6.5 g, 1.2 eq.) was added. The reaction mixture was heated at reflux for 20 hours. The succinimide was collected and the filtrate concentrated in vacuo to a brown oil. The oil was separated by gravity column chromatography (hexane-ethyl acetate, 19: 1) and yielded the title compound as a yellow oil (5.9 g, 78%): EIMS m/z 234 ((M+ —CH3, 81Br), 232 (M+ —CH3, 79Br), 107, 95, 69, 58, 44; 1H NMR (CDCl3, 300 MHZ) δ 7.21 (1H, d, J=9.0 Hz, H6), 6.58 (1H, d, J=9.0 Hz, H5), 3.91 (3H, s, OCH3), 3.89 (3H, s, OCH3), 3.85 (3H, s, OCH3).

reactant | Pyrogallol trimethyl ether | 5.1 g | COC1=C(OC)C(OC)=CC=C1 | C9H12O3
reactant | N-bromosuccinimide | 6.5 g, 1.2 eq. | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CCl4 | 60 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-Bromo-2,3,4-trimethoxy-benzene | 5.9 g, 78% | BrC1=C(C(=C(C=C1)OC)OC)OC | C9H11BrO3
